data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(F)c(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1ccc(F)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(F)c(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(F)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1ccc(F)c([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1ccc(F)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1ccc(F)c(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1ccc(F)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1ccc(F)c(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1ccc(F)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1ccc(F)c(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1ccc(F)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1ccc(F)c(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1ccc(F)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1ccc(F)c(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1ccc(F)c(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cc(Cl)cc(Cl)c1)C1C2CCC1C2", "products": "[O][C](c1cc(Cl)cc(Cl)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1cc(Cl)cc(Cl)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cc(Cl)cc(Cl)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cc(Cl)cc(Cl)c1", "products": "OC(=CC1C=CCC1)c1cc(Cl)cc(Cl)c1"}, {"reactants": "OC(=CC1C=CCC1)c1cc(Cl)cc(Cl)c1", "products": "O=C(CC1C=CCC1)c1cc(Cl)cc(Cl)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(C)cc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1ccc(C)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1ccc(C)cc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)ccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)ccc1OC", "products": "COc1ccc(C)cc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(C)c(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "Cc1ccc(C)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "Cc1ccc(C)c(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)ccc1C"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)ccc1C", "products": "Cc1ccc(C)c(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CCOc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "CCOc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "CCOc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OCC)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OCC)cc1", "products": "CCOc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(Cl)c1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Cl)c1F)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Cl)c2F)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Cl)c2F)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Cl)c2F)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Cl)c2F)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Cl)c2F)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Cl)c2F)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cccc(Cl)c2F)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C(=O)C2C3CCC2C3)cc1F", "products": "Cc1ccc([C]([O])C2C3CCC2C3)cc1F"}, {"reactants": "Cc1ccc([C]([O])C2C3CCC2C3)cc1F", "products": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1F"}, {"reactants": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1F", "products": "Cc1ccc(C(O)=CC2C=CCC2)cc1F"}, {"reactants": "Cc1ccc(C(O)=CC2C=CCC2)cc1F", "products": "Cc1ccc(C(=O)CC2C=CCC2)cc1F"}]}
